
.subckt 0402_15404085BA420 1 2
D1 1 2 led
.MODEL led D
+ IS=5.3973E-12
+ N=2.4750
+ RS=1.2214
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
*********************************
.subckt 0402_15404094BA420 1 2
D1 1 2 led
.MODEL led D
+ IS=27.146E-9
+ N=4.0317
+ RS=1.1842
+ IKF=7.6880E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
*********************************
.subckt 0603_15406085BA300 1 2
D1 1 2 led
.MODEL led D
+ IS=45.893E-21
+ N=1.2870
+ RS=1.1696
+ IKF=14.538E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
*********************************
.subckt 0603_15406094BA500 1 2
D1 1 2 led
.MODEL led D
+ IS=456.13E-18
+ N=1.4289
+ RS=1.0775
+ IKF=33.746E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
*********************************
.subckt 0603_15406085BA400A 1 2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=1.2501
+ RS=3.0638
+ IKF=1.0650
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
*********************************
.subckt 0603_15406094BA400A 1 2
D1 1 2 led
.MODEL led D
+ IS=2.1717E-15
+ N=1.5393
+ RS=1.2101
+ IKF=48.569E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
*********************************
.subckt 0805_15408085BA400 1 2
D1 1 2 led
.MODEL led D
+ IS=10.230E-21
+ N=1.2284
+ RS=2.9210
+ IKF=104.01
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
********************************
.subckt 0805_15408094BA400 1 2
D1 1 2 led
.MODEL led D
+ IS=397.24E-18
+ N=1.4456
+ RS=2.2050
+ IKF=28.675E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
********************************
.subckt 1206_15412085A9000 1 2
D1 1 2 led
.MODEL led D
+ IS=4.1873E-12
+ N=2.4442
+ RS=1.2338
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
********************************
.subckt 1206_15412094A9000 1 2
D1 1 2 led
.MODEL led D
+ IS=11.008E-18
+ N=1.3555
+ RS=.833
+ IKF=40.278E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
********************************
.subckt 1206_15412085BA400 1 2
D1 1 2 led
.MODEL led D
+ IS=202.11E-21
+ N=1.3385
+ RS=2.1248
+ IKF=51.975E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
********************************
.subckt 1206_15412094BA400 1 2
D1 1 2 led
.MODEL led D
+ IS=7.7556E-15
+ N=1.6105
+ RS=2.0801
+ IKF=2.1298
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
********************************





































































