**************************************************
* Manufacturer:       Wurth Elektronik
* Kinds:     Infrared High Power LED
* Matchcode:          WL-SIMW SMD Infrared Ceramic Waterclear
* Library Type:       Pspice
* Version:        rev18a       
* Date and Time   :       2018-8-4
* Team:           eiSos EDA Service  
* Contact:        libraries@we-online.com
**************************************************
.subckt  3535_15435385A9050  1  2
D1 1 2 led
.MODEL led D
+ IS=8.8933E-16
+ N=1.6402
+ RS=5.112
+ IKF=1.882
+ CJO=0.000000000000049398
+ M=0.1001
+ VJ=9.99
.ends
******
.subckt  3535_15435385AA350  1  2
D1 1 2 led
.MODEL led D
+ IS=8.8933E-16
+ N=1.6402
+ RS=5.112
+ IKF=1.882
+ CJO=0.000000000000049398
+ M=0.1001
+ VJ=9.99
.ends
******
.subckt  3535_15435394A9050  1  2
D1 1 2 led
.MODEL led D
+ IS=562.60E-21
+ N=1.1877
+ RS=.56121
+ IKF=32.047E-3
+ CJO=43.241E-15
+ M=.1
+ VJ=9.9900
.ends
******
.subckt  3535_15435394AA350  1  2
D1 1 2 led
.MODEL led D
+ IS=562.60E-21
+ N=1.1877
+ RS=.56121
+ IKF=32.047E-3
+ CJO=43.241E-15
+ M=.1
+ VJ=9.9900
.ends
******