****************
.subckt 0402_15404085BA470 1 2 
D1 2 1 led
.MODEL led D
+ IS=5.9707E-9
+ N=3.9649
+ RS=1.2536
+ IKF=5.3086E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
****************
.subckt 0402_15404094BA470 1 2 
D1 2 1 led
.MODEL led D
+ IS=153.75E-9
+ N=5
+ RS=.93644
+ IKF=4.2967E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
****************
.subckt 1002_15410285AA170 1 2 
D1 2 1 led
.MODEL led D
+ IS=84.387E-18
+ N=1.7270
+ RS=1.4396
+ IKF=6.5501
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
****************
.subckt 1002_15410294AA570 1 2 
D1 2 1 led
.MODEL led D
+ IS=10.000E-21
+ N=1.0644
+ RS=1.2174
+ IKF=8.9574E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
****************
.subckt 1106_15411085A4570 1 2 
D1 2 1 led
.MODEL led D
+ IS=553.57E-18
+ N=1.7089
+ RS=1.2139
+ IKF=212.55
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
****************
.subckt 1106_15411094A6070 1 2 
D1 2 1 led
.MODEL led D
+ IS=541.60E-18
+ N=1.5662
+ RS=1.2886
+ IKF=23.792E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
****************
.subckt 1104_15411485AA370 1 2 
D1 2 1 led
.MODEL led D
+ IS=37.213E-12
+ N=2.7431
+ RS=1.6276
+ IKF=74.956
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
****************
.subckt 1104_15411494AA570 1 2 
D1 2 1 led
.MODEL led D
+ IS=505.44E-18
+ N=1.4511
+ RS=1.6264
+ IKF=27.533E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
****************
.subckt 1206_15412085A2070 1 2 
D1 2 1 led
.MODEL led D
+ IS=10.000E-21
+ N=1.2396
+ RS=3.0449
+ IKF=15.217
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
****************
.subckt 1206_15412094A2070 1 2 
D1 2 1 led
.MODEL led D
+ IS=1.5912E-15
+ N=1.5362
+ RS=2.0600
+ IKF=13.043
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
****************











