**************************************************
* Manufacturer:           Wurth Elektronik 
* Kinds:                  Signal LEDs
* Matchcode:              WL-SMTD
* Library Type:           LTspice
* Version:                rev21a
* Created/modified by:    Ella      
* Date and Time:          2021/09/07
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
.subckt 3528_150141BS63140 1 2 
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.4466
+ RS=1.9923
+ IKF=31.085E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
*******
.subckt 3528_150141GS63140 1 2 
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.4466
+ RS=1.9923
+ IKF=31.085E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
*******
.subckt 3528_150141RS63140 1 2 
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.4466
+ RS=1.9921
+ IKF=31.051E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
*******
.subckt 3528_150141SS63140 1 2 
D1 1 2 led
.MODEL led D
+ IS=330.16E-21
+ N=2.6943
+ RS=2.3536
+ IKF=37.337
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
*******
.subckt 3528_150141YS63140 1 2 
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.4466
+ RS=1.9921
+ IKF=31.051E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
*******
.subckt 3528_150141BS63130 1 2 
D1 1 2 led
.MODEL led D
+ IS=48.651E-12
+ N=4.7513
+ RS=1.1837
+ IKF=431.41E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
*******
.subckt 3528_150141GS63130 1 2 
D1 1 2 led
.MODEL led D
+ IS=48.651E-12
+ N=4.7513
+ RS=1.1837
+ IKF=431.41E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
*******
.subckt 3528_150141RS63130 1 2 
D1 1 2 led
.MODEL led D
+ IS=56.578E-15
+ N=2.8031
+ RS=.55484
+ IKF=286.27E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
*******
.subckt 3528_150141SS63130 1 2 
D1 1 2 led
.MODEL led D
+ IS=10.968E-9
+ N=2.6575
+ RS=.83316
+ IKF=283.20E-12
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
*******
.subckt 3528_150141YS63130 1 2 
D1 1 2 led
.MODEL led D
+ IS=56.578E-15
+ N=2.8031
+ RS=.55484
+ IKF=286.27E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
*******




























