.subckt THT_3mm_15400385F3590 1 2 
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=1.2274
+ RS=2.1166
+ IKF=12.177
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
***********
.subckt THT_3mm_15400394F3590 1 2 
D1 1 2 led
.MODEL led D
+ IS=8.3304E-15
+ N=1.6135
+ RS=1.2370
+ IKF=.16248
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ ISR=100.00E-12
+ BV=5
+ IBV=100.00E-6
.ends
***********
.subckt THT_5mm_15400585F3590 1 2 
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=1.2331
+ RS=2.3128
+ IKF=16.630
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
***********
.subckt THT_5mm_15400594F3590 1 2 
D1 1 2 led
.MODEL led D
+ IS=11.635E-15
+ N=1.6308
+ RS=1.4241
+ IKF=9.0244
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
***********






























