**************************************************
* Manufacturer:       Wurth Elektronik
* Kinds:    Infrared THT LED
* Matchcode:          WL-TIRW
 THT Infrared Round Waterclear
* Library Type:       Pspice
* Version:        rev18a       
* Date and Time   :       2018-8-4
* Team:           eiSos EDA Service  
* Contact:        libraries@we-online.com
**************************************************
.subckt  3mm_15400385A3590  1  2
D1 1 2 led
.MODEL led D
+ IS=471.46E-9
+ N=4.9950
+ RS=1.0000E-6
+ IKF=999
+ CJO=270.16E-12
+ M=10
+ VJ=9.9900
.ends
******
.subckt  3mm_15400394A3590  1  2
D1 1 2 led
.MODEL led D
+ IS=1.6881E-6
+ N=4.9950
+ RS=1.0000E-6
+ IKF=999
+ CJO=527.75E-12
+ M=10
+ VJ=9.9900
.ends
******
.subckt  5mm_15400585A3590  1  2
D1 1 2 led
.MODEL led D
+ IS=2.0869E-19
+ N=1.3283
+ RS=1.9208
+ IKF=0
+ CJO=0.000000000043132
+ M=0.3024
+ VJ=0.49552
.ends
******
.subckt  5mm_15400594A3590  1  2
D1 1 2 led
.MODEL led D
+ IS=0.000000000000026338
+ N=1.6745
+ RS=1.1631
+ IKF=0.30418
+ CJO=0.00000000013486
+ M=1.8418
+ VJ=0.3905
.ends
******
