.subckt limit d dc params: clampH=0.99 clampL=16m
Gd 0 dcx VALUE = { V(d)*100u }
Rdc dcx 0 10k
V1 clpn 0 {clampL}
V2 clpp 0 {clampH}
D1 clpn dcx dclamp
D2 dcx clpp dclamp
Edc dc 0 value={ V(dcx) }
.model dclamp d n=0.01 rs=100m
.ENDS
